US05225425
N-[4-(2-Methyl-1H-imidazol-1-yl)phenyl]-4-(tetradecyloxy)benzeneacetamide
To a solution of 5.0 g of p-tetradecyloxy phenylacetyl chloride in 50 ml of tetrahydrofuran is added to a solution of 4.31 g of pyridine and 2.36 g of 4-(2-methyl-1H-imidazol-1-yl)benzenamine in 50 ml of tetrahydrofuran over 5 minutes. The mixture is stirred at ambient temperature for 1 hour, heated to reflux and allowed to stir at room temperature for 2 hours. The solvent is evaporated to a residue which is partitioned between chloroform and dilute sodium bicarbonate. The organic layer is separated, washed with water, dried and filtered through a pad of magnesium silicate. The solvent is evaporated to an oil which crystallizes from methyl alcohol:water to give 4.0 g of white solid Which is chromatographed on silica gel using ethyl acetate containing 0.1% ammonium hydroxide to give 3.9 g of the desired product as a white solid, m.p. 106°-109° C.

reactant | p-tetradecyloxy phenylacetyl chloride | 5.0 g | C(CCCCCCCCCCCCC)OC1=CC=C(C=C1)CC(=O)Cl | C22H35ClO2
reactant | pyridine | 4.31 g | N1=CC=CC=C1 | C5H5N
reactant | 4-(2-methyl-1H-imidazol-1-yl)benzenamine | 2.36 g | CC=1N(C=CN1)C1=CC=C(C=C1)N | C10H11N3
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N-[4-(2-Methyl-1H-imidazol-1-yl)phenyl]-4-(tetradecyloxy)benzeneacetamide | 4.0 g | CC=1N(C=CN1)C1=CC=C(C=C1)NC(CC1=CC=C(C=C1)OCCCCCCCCCCCCCC)=O | C32H45N3O2
